US04434167
100 g 5-nitro 4,6-dichloropyrimidine are heated in 1000 ml sodium ethylate solution (16.8 g sodium) for 10 hours to 50° C. Then the reaction mixture is evaporated under vacuum and the residue is stirred with water and vacuum treated. Subsequently, it is extracted several times with hot petroleum ether (boiling range 40° to 60° C.). After cooling, the crystals are vacuum treated and dried. 46 g 4-chloro-6-methoxy-5-nitropyrimidine are obtained having a melting point of 65° C.

reactant | 5-nitro 4,6-dichloropyrimidine | 100 g | [N+](=O)([O-])C=1C(=NC=NC1Cl)Cl | C4HCl2N3O2
reactant | sodium ethylate solution | 1000 ml, 16.8 g | CC[O-].[Na+]
product | 4-chloro-6-methoxy-5-nitropyrimidine | 46 g | ClC1=NC=NC(=C1[N+](=O)[O-])OC | C5H4ClN3O3
